US04656181
20 g (0.05 moles) of 2-(4-acetylaminobenzoyloxy)ethyl 2-(3-nitrobenzylidene)acetylacetate and 5.23 g (0.05 moles) of methyl 3-aminocrotonate are heated under reflux in 45 ml of ethanol for 8 hours. The solution is then cooled to room temperature to obtain 2-(4-acetylaminobenzoyloxy)ethyl 2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate as a yellow powder melting at 190°-193° C. The yield is 94% of the theoretical yield.

reactant | 2-(4-acetylaminobenzoyloxy)ethyl 2-(3-nitrobenzylidene)acetylacetate | 0.05 moles, 20 g | [N+](=O)([O-])C=1C=C(C=CC(=O)CC(=O)OCCOC(C2=CC=C(C=C2)NC(C)=O)=O)C=CC1 | C22H20N2O8
reactant | methyl 3-aminocrotonate | 0.05 moles, 5.23 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | ethanol | 45 ml | C(C)O | C2H6O
product | 2-(4-acetylaminobenzoyloxy)ethyl 2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate | yield is 94% | CC=1NC(=C(C(C1C(=O)OCCOC(C1=CC=C(C=C1)NC(C)=O)=O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C27H27N3O9
